US07420001B2
To 220 mg of 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 3 mL of TFA/dichloromethane (1:1) and the solution was stirred at room temperature for 10 h. When the reaction was done, the solvents were removed by vacuum and the residue was triturated with hexane/dichloromethane. Filtration of the suspension gave 141 mg (77% yield) of 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid as a white solid.

reactant | 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 220 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Br)OC | C15H17BrO4
reactant | TFA dichloromethane | 3 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 5-bromo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 141 mg, 77% yield | BrC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C11H9BrO4
